US06921763B2
A mixture of trans-ethyl 3-({4-[4-amino-3-(4-{[2-fluoro-4-trifluoromethylbenzoyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclohexyl}amino)propanoate (0.04 g, 0.06 mmol), p-dioxane (4 mL), potassium hydroxide (0.02 g, 0.31 mmol), a trace amount of methanol and water (0.4 mL) were heated at 80° C. for 1 hour. The mixture was stirred at ambient temperature overnight and at 80° C. for 4 hours. The solvents were evaporated and the residue was purified by preparative HPLC to yield trans-3-({4-[4-amino-3-(3-methoxy-4-{[2-methoxy-4-trifluoromethylbenzoyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclohexyl}amino)propanoic acid (0.04 g, 0.06 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 10.72 (s, 1H), 8.61(d, 1H), 8.28 (d, 1H), 8.24 (s, 1H), 7.61(s, 1H), 7.53 (d, 1H), 7.33 (s, 1H), 7.29 (d, 1H), 4.72 (m, 1H), 4.20 (s, 3H), 4.05 (s, 3H), 1.44-3.61 (m, 13H); RP-HPLC (Hitachi HPLC, Hypersil C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05M ammonium acetate over 10 min, 1 mL/min) Rt 6.36 min.

reactant | trans-ethyl 3-({4-[4-amino-3-(4-{[2-fluoro-4-trifluoromethylbenzoyl]amino}-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclohexyl}amino)propanoate | 0.06 mmol, 0.04 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)[C@@H]2CC[C@H](CC2)NCCC(=O)OCC | C31H33F4N7O4
reactant | p-dioxane | 4 mL | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | 0.31 mmol, 0.02 g | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | water | 0.4 mL | O | H2O
product | trans-3-({4-[4-amino-3-(3-methoxy-4-{[2-methoxy-4-trifluoromethylbenzoyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]cyclohexyl}amino)propanoic acid | 0.06 mmol, 0.04 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)OC)=O)OC)[C@@H]2CC[C@H](CC2)NCCC(=O)O | C30H32F3N7O5
